US08383619B2
Concentrated hydrochloric acid (0.4 ml) was added to a solution of methyl 2-allyloxy-5-isopropyl-4-(methoxymethyloxy)benzoate (1049 mg, 3.57 mmol) in methanol (25 ml) and the mixture was stirred and held at reflux for 3 hours. Upon cooling to room temperature the volatile material and solvent were removed in vacuo to afford methyl 2-allyloxy-4-hydroxy-5-isopropylbenzoate (880 mg, 98%) as a pale green oil. 1H NMR (DMSO-d6) 10.18 (1H, s), 7.54 (1H, s), 6.51 (1H, s), 6.03 (1H, m), 5.51 (1H, dm), 5.27 (1H, dm), 4.52 (2H, m), 3.73 (3H, s), 3.10 (1H, m), 1.15 (6H, d). MS: [M+Na]+ 273.

reactant | hydrochloric acid | 0.4 ml | Cl | ClH
reactant | methyl 2-allyloxy-5-isopropyl-4-(methoxymethyloxy)benzoate | 3.57 mmol, 1049 mg | C(C=C)OC1=C(C(=O)OC)C=C(C(=C1)OCOC)C(C)C | C16H22O5
solvent | methanol | 25 ml | CO | CH4O
product | methyl 2-allyloxy-4-hydroxy-5-isopropylbenzoate | 880 mg, 98% | C(C=C)OC1=C(C(=O)OC)C=C(C(=C1)O)C(C)C | C14H18O4
